US07858640B2
[3-(2-chloro-4-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic Acid
A mixture of [3-(2-chloro-4-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic acid methyl ester (1.2 g), tetrahydrofuran (10 mL) and 1.0 M aqueous lithium hydroxide solution (3.0 mL) was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the pH of the residue adjusted to 4 by the addition of sodium dihydrogenphosphate. The mixture was extracted with ethyl acetate and the combined extracts dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound, 1.1 g.

reactant | [3-(2-chloro-4-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic acid methyl ester | 1.2 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)F)Cl)OC(F)F)=O | C22H18ClF4NO4
reactant | lithium hydroxide | 1.0 M, 3.0 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [3-(2-chloro-4-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic Acid | ClC1=C(CC=2C(=NC3=C(C=CC(=C3C2OC(F)F)OCC(=O)O)F)CC)C=CC(=C1)F | C21H16ClF4NO4
